US07601843B2
N-[1-[2-[1-[2-(Morpholino)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide
After adding triethylamine (0.21 mL, 1.50 mmol) and 2-furoyl chloride (0.10 mL, 1.00 mmol) in that order to a solution of 4-[2-[1-[2-[4-(p-toluidino)piperidin-1-yl]ethyl]cyclohexyl]ethyl]morpholine (319 mg, 0.77 mmol) in methylene chloride (5 mL) while cooling on ice, the mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (20 g Merck Art 9385, chloroform:methanol=20:1-chloroform:methanol:ammonia water=10:1:0.1) to obtain the title compound as a colorless oil (283 mg) (72% yield).

reactant | triethylamine | 1.50 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 1.00 mmol, 0.10 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 4-[2-[1-[2-[4-(p-toluidino)piperidin-1-yl]ethyl]cyclohexyl]ethyl]morpholine | 0.77 mmol, 319 mg | C1(=CC=C(C=C1)NC1CCN(CC1)CCC1(CCCCC1)CCN1CCOCC1)C | C26H43N3O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[1-[2-[1-[2-(Morpholino)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 283 mg, 72% yield | O1CCN(CC1)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C31H45N3O3
